US06921821B2
6-Bromo-4-[1-(3-phenyl-allyl)-piperidine-4-ylamino]-chromen-2-one (III-5)
To a solution of 4-amino-1-cinnamylpiperidine (1.3 g, 6 mmol) and triethylamine (1.6 mL, 7.2 mmol) in dry acetonitrile (125 mL) was added trifluoromethanesulfonic acid 6-bromo-2-oxo-2H-chromen-4-yl ester (2.23 g, 6 mmol). About 5 mL of solution was added to each of 25 dry microwave vials equipped with stir bars. The vials were capped and each was heated at 150° C. for 5 minutes in the microwave. The solutions were combined, concentrated and dissolved in chloroform. The solution was washed with water and brine and dried over Na2SO4, and concentrated. The residue was purified by flash chromatography through a silica gel column with dichloromethane and methanol (95:5 v/v) to provide the desired compound (900 mg, 34%) as a yellow solid. MS (ESI(+)Q1MS m/z 440 (M+2H)+; 1H NMR (300 MHz, DMSO) δ ppm 1.57-1.67 (m, 2H), 1.89-1.95 (m, 2H), 2.13 (m, 2H), 2.92 (m, 2H), 3.13 (m, 2H), 3.50 (m, 1H), 5.28 (sd, 1H), 6.35 (dt, 1H), 6.56 (d, 1H), 7.24-7.47 (m. 7H), 7.74 (dd, 1H), 8.45 (d, 1H).

reactant | 4-amino-1-cinnamylpiperidine | 6 mmol, 1.3 g | NC1CCN(CC1)CC=CC1=CC=CC=C1 | C14H20N2
reactant | triethylamine | 7.2 mmol, 1.6 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic acid 6-bromo-2-oxo-2H-chromen-4-yl ester | 6 mmol, 2.23 g | BrC=1C=C2C(=CC(OC2=CC1)=O)OS(=O)(=O)C(F)(F)F | C10H4BrF3O5S
solvent | acetonitrile | 125 mL | C(C)#N | C2H3N
product | 6-Bromo-4-[1-(3-phenyl-allyl)-piperidine-4-ylamino]-chromen-2-one | 900 mg, 34% | BrC=1C=C2C(=CC(OC2=CC1)=O)NC1CCN(CC1)CC=CC1=CC=CC=C1 | C23H23BrN2O2
